### PR TITLE
feat(RingTheory): embDomain composition and range, Laurent series expansion

### PR DESCRIPTION
**Pull request by deancureton**
Add to the Hahn series API:
- `embDomain_embDomain` (composition of domain embeddings)
- `mem_range_embDomain_iff` (range of `embDomain` is characterized by support containment)

Add to the Laurent series API:
- the expansion ring endomorphism `LaurentSeries.expand` with its monomial and `orderTop` lemmas
    - follows the pattern of `Polynomial.expand`, `MvPolynomial.expand`, `PowerSeries.expand`
- its opposite `LaurentSeries.contract`, with the decomposition of a Laurent series by exponent residues mod `n` (`sum_single_mul_expand_contract`) and its uniqueness (`contract_eq_of_sum_eq`)
- `exists_ofPowerSeries_eq_of_orderTop_nonneg`

This is the first of a series of PRs formalizing Puiseux series and Puiseux's theorem (entry 41 of Freek Wiedijk's 100 theorems list).

### CODE REVIEW

File: Mathlib/RingTheory/HahnSeries/Basic.lean [hunk 1]
```diff
@@ -492,6 +492,32 @@ theorem embDomain_single {f : Γ ↪o Γ'} {g : Γ} {r : R} :
...
+    · exact embDomain_of_notMem_range hb'
+
+theorem mem_range_embDomain_iff {f : Γ ↪o Γ'} {x : R⟦Γ'⟧} :
+    x ∈ Set.range (embDomain f : R⟦Γ⟧ → R⟦Γ'⟧) ↔ x.support ⊆ Set.range f := by
+  constructor
+  · rintro ⟨y, rfl⟩
+    exact support_embDomain_subset.trans (Set.image_subset_range _ _)
+  · intro hx
+    refine ⟨⟨fun a ↦ x.coeff (f a),
+      Set.partiallyWellOrderedOn_iff_exists_lt.mpr fun g hg ↦ ?_⟩, ?_⟩
```
Comment (wwylele) [inline Mathlib/RingTheory/HahnSeries/Basic.lean]: Seems to fit one line fine
```suggestion
    refine ⟨⟨fun a ↦ x.coeff (f a), Set.partiallyWellOrderedOn_iff_exists_lt.mpr fun g hg ↦ ?_⟩, ?_⟩
```

File: Mathlib/RingTheory/LaurentSeries.lean [hunk 2]
```diff
@@ -259,6 +260,61 @@ theorem X_order_mul_powerSeriesPart {n : ℕ} {f : R⸨X⸩} (hn : n = f.order)
...
+theorem exists_ofPowerSeries_eq_of_orderTop_nonneg {f : R⸨X⸩} (hf : 0 ≤ f.orderTop) :
+    ∃ F : R⟦X⟧, ofPowerSeries ℤ R F = f :=
+  ⟨PowerSeries.X ^ f.order.toNat * f.powerSeriesPart,
+    X_order_mul_powerSeriesPart (Int.toNat_of_nonneg (zero_le_orderTop_iff.mp hf))⟩
+
+variable (R) in
+/-- The expansion ring endomorphism of `R⸨X⸩` sending `X` to `X ^ m`, obtained by
+embedding the exponents along `k ↦ m * k`. -/
+def expand (m : ℕ+) : R⸨X⸩ →+* R⸨X⸩ :=
+  HahnSeries.embDomainRingHom (AddMonoidHom.mk' ((m : ℤ) * ·) (mul_add _))
```
Comment (wwylele) [inline Mathlib/RingTheory/LaurentSeries.lean]: We have existing spelling for this `AddMonoidHom`. Using an existing bundled def has the potential advantage where we might also have associated lemma for injectivity and monotonicity, though it looks like we don't for this case 
```suggestion
  HahnSeries.embDomainRingHom (AddMonoidHom.mul m)
```

File: Mathlib/RingTheory/LaurentSeries.lean [hunk 3]
```diff
@@ -259,6 +260,61 @@ theorem X_order_mul_powerSeriesPart {n : ℕ} {f : R⸨X⸩} (hn : n = f.order)
...
+    (fun _ _ ↦ mul_left_cancel₀ (by exact_mod_cast m.ne_zero))
+    fun _ _ ↦ mul_le_mul_iff_right₀ (by exact_mod_cast m.pos)
+
+@[simp]
+theorem expand_single (m : ℕ+) (k : ℤ) (a : R) :
+    expand R m (single k a) = single ((m : ℤ) * k) a :=
```
Comment (wwylele) [inline Mathlib/RingTheory/LaurentSeries.lean]: It looks like the elaborator can figure out the coercion here. Similar for other occurrence below
```suggestion
    expand R m (single k a) = single (m * k) a :=
```

File: Mathlib/RingTheory/LaurentSeries.lean [hunk 4]
```diff
@@ -259,6 +260,61 @@ theorem X_order_mul_powerSeriesPart {n : ℕ} {f : R⸨X⸩} (hn : n = f.order)
   simp only [map_mul, map_pow, ofPowerSeries_X, single_pow, nsmul_eq_mul, mul_one, one_pow, hn,
     single_order_mul_powerSeriesPart]
 
+theorem exists_ofPowerSeries_eq_of_orderTop_nonneg {f : R⸨X⸩} (hf : 0 ≤ f.orderTop) :
+    ∃ F : R⟦X⟧, ofPowerSeries ℤ R F = f :=
+  ⟨PowerSeries.X ^ f.order.toNat * f.powerSeriesPart,
+    X_order_mul_powerSeriesPart (Int.toNat_of_nonneg (zero_le_orderTop_iff.mp hf))⟩
+
+variable (R) in
```
Comment (wwylele) [inline Mathlib/RingTheory/LaurentSeries.lean]: I think we usually keep such parameter implicit (e.g. [PowerSeries.expand](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/PowerSeries/Expand.html#PowerSeries.expand)). The reason is that a `*Hom` def is often used as a plain function, so `R⸨X⸩` becomes a parameter that mentions `R`

File: Mathlib/RingTheory/LaurentSeries.lean [hunk 5]
```diff
@@ -259,6 +260,61 @@ theorem X_order_mul_powerSeriesPart {n : ℕ} {f : R⸨X⸩} (hn : n = f.order)
...
+/-- The expansion ring endomorphism of `R⸨X⸩` sending `X` to `X ^ m`, obtained by
+embedding the exponents along `k ↦ m * k`. -/
+def expand (m : ℕ+) : R⸨X⸩ →+* R⸨X⸩ :=
```
Comment (wwylele) [inline Mathlib/RingTheory/LaurentSeries.lean:272]: Since I mentioned [PowerSeries.expand](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/PowerSeries/Expand.html#PowerSeries.expand), I noticed the PowerSeries one uses ` (p : ℕ) (hp : p ≠ 0) ` instead of `ℕ+`. I personally prefer `ℕ+`, but I'd like to call this out for inconsistency, and other reviewer may have opinion on whether we should keep them consistent

File: Mathlib/RingTheory/LaurentSeries.lean [hunk 6]
```diff
@@ -259,6 +260,61 @@ theorem X_order_mul_powerSeriesPart {n : ℕ} {f : R⸨X⸩} (hn : n = f.order)
...
+
+@[simp]
+theorem expand_single (m : ℕ+) (k : ℤ) (a : R) :
+    expand R m (single k a) = single ((m : ℤ) * k) a :=
+  HahnSeries.embDomain_single ..
+
+@[simp]
+theorem orderTop_expand (m : ℕ+) (f : R⸨X⸩) :
+    (expand R m f).orderTop = f.orderTop.map fun k : ℤ ↦ (m : ℤ) * k := by
+  rw [show expand R m f = HahnSeries.embDomain _ f from HahnSeries.embDomainRingHom_apply _ _ _ f,
```
Comment (wwylele) [inline Mathlib/RingTheory/LaurentSeries.lean]: This `show` reveals that `expand` is missing a `simp` lemma:

```
@[simp]
theorem expand_apply (m : ℕ+) (f : R⸨X⸩) :
    expand R m f = HahnSeries.embDomain 
      ⟨⟨(AddMonoidHom.mul (m : ℤ)), fun _ _ ↦ mul_left_cancel₀ (by exact_mod_cast m.ne_zero)⟩, 
      mul_le_mul_iff_right₀ (by exact_mod_cast m.pos)⟩ f := 
  rfl
```
(Unfortunately the inline proof needs to be repeated here). After this, both `expand_single` and `orderTop_expand` can be closed by `simp` (and then you should remove `@[simp]` from `expand_single` and `orderTop_expand`, otherwise the linter will complain)

**Review by wwylele — COMMENTED** [review]
Some minor comments. I haven't looked at `exists_eq_sum_single_mul_expand` yet

File: Mathlib/RingTheory/LaurentSeries.lean [hunk 7]
```diff
@@ -259,6 +260,61 @@ theorem X_order_mul_powerSeriesPart {n : ℕ} {f : R⸨X⸩} (hn : n = f.order)
...
+    HahnSeries.orderTop_embDomain]
+  rfl
+
+/-- Every Laurent series decomposes as `∑ r < n, X ^ r * expand R n (g r)`, where `g r`
+collects its coefficients at exponents congruent to `r` mod `n`. -/
+theorem exists_eq_sum_single_mul_expand (n : ℕ+) (f : R⸨X⸩) :
+    ∃ g : ℕ → R⸨X⸩,
+      f = ∑ r ∈ Finset.range (n : ℕ), HahnSeries.single (r : ℤ) 1 * expand R n (g r) := by
+  classical
```
Comment (wwylele) [inline Mathlib/RingTheory/LaurentSeries.lean]: not needed
```suggestion
```

File: Mathlib/RingTheory/LaurentSeries.lean [hunk 8]
```diff
@@ -259,6 +260,61 @@ theorem X_order_mul_powerSeriesPart {n : ℕ} {f : R⸨X⸩} (hn : n = f.order)
...
+    (expand R m f).orderTop = f.orderTop.map fun k : ℤ ↦ (m : ℤ) * k := by
+  rw [show expand R m f = HahnSeries.embDomain _ f from HahnSeries.embDomainRingHom_apply _ _ _ f,
+    HahnSeries.orderTop_embDomain]
+  rfl
+
+/-- Every Laurent series decomposes as `∑ r < n, X ^ r * expand R n (g r)`, where `g r`
+collects its coefficients at exponents congruent to `r` mod `n`. -/
+theorem exists_eq_sum_single_mul_expand (n : ℕ+) (f : R⸨X⸩) :
+    ∃ g : ℕ → R⸨X⸩,
+      f = ∑ r ∈ Finset.range (n : ℕ), HahnSeries.single (r : ℤ) 1 * expand R n (g r) := by
```
Comment (wwylele) [inline Mathlib/RingTheory/LaurentSeries.lean]: Is this decomposition unique? If so, it probably should be a `def`
Do I also read correctly that only `g 0`... `g (n - 1)` matters? If so, it probably should be `g : Fin n → R⸨X⸩`

**Comment by deancureton** [comment]
thank you so much!! will address these soon

File: Mathlib/RingTheory/LaurentSeries.lean (hunk 5 above)
Comment (deancureton) [reply Mathlib/RingTheory/LaurentSeries.lean:272]: thanks! yeah, this was one thing i was unsure about. `ℕ+` feels cleaner to me but definitely happy to split if reviewers think that's the right call

File: Mathlib/RingTheory/LaurentSeries.lean (hunk 8 above)
Comment (deancureton) [reply Mathlib/RingTheory/LaurentSeries.lean]: Yes it's unique, thanks for calling that out! I've made it a def indexed by `Fin n`, named `contract` following `Polynomial.contract`.
The existential is now the identity `sum_single_mul_expand_contract`, and i also went ahead and added a uniqueness lemma as `contract_eq_of_sum_eq` following patterns elsewhere. Of course, happy to rename or remove it if unneeded :)

**Comment by deancureton** [comment]
LLM-generated

File: Mathlib/RingTheory/LaurentSeries.lean [hunk 9]
```diff
@@ -259,6 +262,94 @@ theorem X_order_mul_powerSeriesPart {n : ℕ} {f : R⸨X⸩} (hn : n = f.order)
...
+theorem orderTop_expand (m : ℕ+) (f : R⸨X⸩) :
+    (expand m f).orderTop = f.orderTop.map fun k : ℤ ↦ m * k := by
+  simp
+
+/-- The opposite of `expand`, shifted by `r`: the `r`-th component of a Laurent series with
+respect to `n`, obtained by collecting the coefficients at exponents congruent to `r` mod `n`.
+These are the unique components satisfying
+`∑ r : Fin n, X ^ r * expand n (contract n f r) = f`; see
+`LaurentSeries.sum_single_mul_expand_contract` and `LaurentSeries.contract_eq_of_sum_eq`. -/
+def contract (n : ℕ+) (f : R⸨X⸩) (r : Fin n) : R⸨X⸩ where
```
Comment (wwylele) [inline Mathlib/RingTheory/LaurentSeries.lean:297]: There is a generalization we can consider: `HahnSeries.comapDomain`, which is like the inverse of `HahnSeries.embDomain` (See `Finsupp.mapDomain` and `Finsupp.comapDomain`). Then `contract` is a special case of `comapDomain` with an affine map.

If we decide to go with the generalization, I think this is a good point to split into a separate PR

Comment (deancureton) [reply Mathlib/RingTheory/LaurentSeries.lean:297]: sounds like a good idea! i'd be happy to open another PR as well if you think it's something to commit to
